US05710322
A solution of 20.0 g (69.3 mmol) of (S)-N-tert-butyl-3,3-dimethyl-2-(1-phenylethylimino)-butyramide in 155 ml of methanol was hydrogenated in a low pressure hydrogenation apparatus in the presence of 12.5 g of 5 percent Pd/C at 40° C. and normal pressure for 51 hours. After cooling the catalyst was filtered off and the filtrate was evaporated to dryness: 11.9 g (92.2%) of white crystals containing 94.4% (S)-N-tert-butyl-tert-leucinamide, 92.5% e.e. Recrystallization from 50 ml of hexane yielded 7.8 g (66.0%) of (S)-N-tert-butyl-tert-leucinamide as white crystals, m.p. 78°-80° C., [α]=-32.2 (c=1, CHCl3), >98% e.e.

reactant | (S)-N-tert-butyl-3,3-dimethyl-2-(1-phenylethylimino)-butyramide | 69.3 mmol, 20.0 g | C(C)(C)(C)NC(C(C(C)(C)C)=N[C@@H](C)C1=CC=CC=C1)=O | C18H28N2O
solvent | methanol | 155 ml | CO | CH4O
catalyst | Pd/C | 12.5 g | [Pd] | Pd
product | (S)-N-tert-butyl-tert-leucinamide | 7.8 g, 66.0% | C(C)(C)(C)NC([C@@H](N)C(C)(C)C)=O | C10H22N2O
